US08957093B2
(S)-4′-((5-((1-(4-Cyclopropylphenyl)ethyl)carbamoyl)-2,3-dimethyl-1H-indol-1-yl)methyl)-[1,1′-biphenyl]-2-carboxylic acid
A mixture of (S)-4′-((5-((1-(4-bromophenyl)ethyl)carbamoyl)-2,3-dimethyl-1H-indol-1-yl)methyl)-[1,1′-biphenyl]-2-carboxylic acid (28 mg, 0.048 mmol), cyclopropylboronic acid (9 mg, 0.10 mmol), Palladium(II) acetate (3.9 mg, 0.017 mmol) tricyclohexylphosphine (10 mg, 0.036 mmol) and potassium phosphate, tribasic, (22 mg, 0.10 mmol) in toluene (2.5 mL) and water (0.3 mL) was heated at 100° C. for 1 h in a Biotage Microwave reactor. The solvent was removed; the residue was filtered and purified by preparative HPLC to yield the title compound as a white solid. ESI-MS (m/z): 543 [M+H]+.

reactant | (S)-4′-((5-((1-(4-bromophenyl)ethyl)carbamoyl)-2,3-dimethyl-1H-indol-1-yl)methyl)-[1,1′-biphenyl]-2-carboxylic acid | 0.048 mmol, 28 mg | BrC1=CC=C(C=C1)[C@H](C)NC(=O)C=1C=C2C(=C(N(C2=CC1)CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)O)C)C | C33H29BrN2O3
reactant | cyclopropylboronic acid | 0.10 mmol, 9 mg | C1(CC1)B(O)O | C3H7BO2
reactant | potassium phosphate | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | water | 0.3 mL | O | H2O
solvent | toluene | 2.5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Palladium(II) acetate | 0.017 mmol, 3.9 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (S)-4′-((5-((1-(4-Cyclopropylphenyl)ethyl)carbamoyl)-2,3-dimethyl-1H-indol-1-yl)methyl)-[1,1′-biphenyl]-2-carboxylic acid | C1(CC1)C1=CC=C(C=C1)[C@H](C)NC(=O)C=1C=C2C(=C(N(C2=CC1)CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)O)C)C | C36H34N2O3
